US08791102B2
Step (e) (2S,4R)-4-(4-Fluoro-2-methylbenzyl)pyrrolidine-2-carboxylic acid trifluoroacetic acid salt (703 mg, 2.0 mmol) was dissolved in dioxane (10 mL), acetonitrile (16 mL), and N,N-diisopropylethylamine (0.94 mL) at ambient temperature and then a solution of di-tert-butyl dicarbonate (640 mg, 2.94 mmol) in acetonitrile (6 mL) was added to the mixture. The mixture was stirred at ambient temperature for 24 hours and concentrated in vacuo. The residue was dissolved in saturated sodium bicarbonate (60 mL) and the solution was washed with diethyl ether (3×40 mL). The aqueous layer was acidified with citric acid to pH 4 and then extracted with methylene chloride (3×40 mL). The combined extract was dried over anhydrous sodium sulfate and concentrated in vacuo to give (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-fluoro-2-methylbenzyl)pyrrolidine-2-carboxylic acid (540 mg, 1.6 mmol, 76.8%) as a colorless oil.

reactant | (2S,4R)-4-(4-Fluoro-2-methylbenzyl)pyrrolidine-2-carboxylic acid trifluoroacetic acid salt | 2.0 mmol, 703 mg | FC(C(=O)O)(F)F.FC1=CC(=C(C[C@@H]2C[C@H](NC2)C(=O)O)C=C1)C
reactant | N,N-diisopropylethylamine | 0.94 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 2.94 mmol, 640 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-fluoro-2-methylbenzyl)pyrrolidine-2-carboxylic acid | 1.6 mmol, 540 mg, 76.8% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)CC1=C(C=C(C=C1)F)C)C(=O)O | C18H24FNO4
